US08303944B2
Ammonium acetate (9.4 g, 157 mmol) was added to a solution of Example J7, (2S)-tert-butyl 2-(4-(methoxy)-1-(4-bromophenyl)-1,4-dioxobutan-2-ylcarbamoyl)pyrrolidine-1-carboxylate (7.6 g, 15.7 mmol) in xylene (80 mL) and stirred for 4 hours at 140° C. in a screw capped 150 mL pressure vessel. After being cooled, the reaction mixture was diluted with ethyl acetate and washed with sat NaHCO3 and brine before being concentrated by rotory evaporation under high vacuum. The crude product was taken up in CH2Cl2 and charged to a 40 (M) Biotage silica gel cartridge. Gradient elution 15-100% B over 2 L (A=CH2Cl2; B=ethyl acetate) gave Example J8, (S)-tert-butyl 2-(4-(4-bromophenyl)-5-(2-methoxy-2-oxoethyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate 3.38 g (46%). 1H NMR (500 MHz, DMSO-d6) δ 7.54 (s, 4H), 4.83-4.73 (m, 1H), 3.81 (br. s, 1H), 3.62 (s, 3H), 3.53-3.51 (m, 1H), 3.38-3.31 (m, 2H), 2.25-2.15 (m, 1H), 1.99-1.83 (m, 3H), 1.41/1.16 (s, 9H). RT=1.6 minutes (Condition 1). LCMS: Anal. Calcd. for C21H26BrN3O4 464.11. found: 464.40 (M+H)+.

reactant | Ammonium acetate | 157 mmol, 9.4 g | C(C)(=O)[O-].[NH4+]
reactant | (2S)-tert-butyl 2-(4-(methoxy)-1-(4-bromophenyl)-1,4-dioxobutan-2-ylcarbamoyl)pyrrolidine-1-carboxylate | 15.7 mmol, 7.6 g | COC(CC(C(=O)C1=CC=C(C=C1)Br)NC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C21H27BrN2O6
solvent | xylene | 80 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-tert-butyl 2-(4-(4-bromophenyl)-5-(2-methoxy-2-oxoethyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 3.38 g, 46% | BrC1=CC=C(C=C1)C=1N=C(NC1CC(=O)OC)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H26BrN3O4
